US04774253
12.78 g (50 mmol) of N-[(4-chlorobenzoyl)methyl]-2-ethoxyacetamide were dissolved in 32.5 ml of concentrated sulphuric acid while stirring and cooling intermittently so that the temperature did not rise above room temperature. The mixture was held at room temperature for 20 hours, then poured on to 600 ml of ice/water and extracted three times with 150 ml of diethyl ether each time. The combined ether extracts were washed with 100 ml of saturated sodium hydrogen carbonate solution, then dried over magnesium sulphate, filtered and evaporated to give 10.55 g (89%) of 5-(4-chlorophenyl)-2-ethoxymethyloxazole in the form of a syrup.

reactant | N-[(4-chlorobenzoyl)methyl]-2-ethoxyacetamide | 50 mmol, 12.78 g | ClC1=CC=C(C(=O)CNC(COCC)=O)C=C1 | C12H14ClNO3
solvent | sulphuric acid | 32.5 ml | S(O)(O)(=O)=O | H2O4S
product | 5-(4-chlorophenyl)-2-ethoxymethyloxazole | 10.55 g, 89% | ClC1=CC=C(C=C1)C1=CN=C(O1)COCC | C12H12ClNO2
